US05821239
4-[[(N-methyl-N-butylamino)methylene]amino]-3-pyridinol
A mixture of 4-[[(dimethylamino)methylene]amino]-3-pyridinol (7.50 g), N-methylbutylamine (8.10 g), ammonium sulfate (0.600 g), and anhydrous toluene (25 mL) was heated at reflux under nitrogen for 2.25 hours. The solution was concentrated under reduced pressure and the crude product chromatographed on silica gel (10% methanol in dichloromethane) to afford 6.04 g of solid. Recrystallization from ethyl acetate/hexanes afforded 3.90 g of a crystalline material, m.p. 83°-85° C.

reactant | 4-[[(dimethylamino)methylene]amino]-3-pyridinol | 7.50 g | CN(C)C=NC1=C(C=NC=C1)O | C8H11N3O
reactant | N-methylbutylamine | 8.10 g | CNCCCC | C5H13N
reactant | ammonium sulfate | 0.600 g | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[[(N-methyl-N-butylamino)methylene]amino]-3-pyridinol | 6.04 g | CN(CCCC)C=NC1=C(C=NC=C1)O | C11H17N3O
